US04700004
This example is of inventive runs illustrating the enhanced activity of adding a soluble cobalt-containing compound to the synthesis described in Example III. The charge and procedure described in Example III was repeated except 0.01 gram of cobalt 2-ethylhexanoate was added. The run, IVa, was complete in 0.75 hour with a 99.5 percent cyclohexyl mercaptan conversion and a 100 percent disulfide selectivity giving a 99.5 mole percent yield of dicyclohexyl disulfide. The reaction describing the use of cobalt 2-ethylhexanoate, methyl alcohol, and sodium hydroxide was repeated (Run IV(b)), on a larger scale (373X) involving a charge of 5 grams of cobalt 2-ethylhexanoate, 39.1 pounds cyclohexyl mercaptan, 0.9 pound of-sodium hydroxide and 15.85 pounds of methyl alcohol. A 100 percent conversion of cyclohexyl mercaptan was obtained after one hour of reaction time giving 100 percent disulfide selectivity. The effluent was diluted with 2.5 gallons of water, stirred 30 minutes at about 25° C. and the oil phase separated. The oil phase was then heated to about 116° C. while nitrogen was bubbled through at 6 scfh at one atmosphere pressure for 4 hours. There was obtained 34.45 pounds (93.4 mole percent yield) of essentially pure dicyclohexyl disulfide.

reactant | cyclohexyl mercaptan | C1(CCCCC1)S | C6H12S
catalyst | cobalt | [Co] | Co
catalyst | cobalt 2-ethylhexanoate | 0.01 gram | C(C)C(C(=O)[O-])CCCC.[Co+2].C(C)C(C(=O)[O-])CCCC
product | dicyclohexyl disulfide | C1(CCCCC1)SSC1CCCCC1 | C12H22S2
